US07875645B2
2-(2,6-Bis-trifluoromethyl-benzyl)-4,5-dihydro-1H-imidazole was prepared from (2,6-bis-trifluoromethyl-phenyl)-acetonitrile and ethylene diamine in analogy to Example 19 b): colourless crystals; MS (EI): 296.2 (M+.), 275.1 ((M-F)+.), 267.1 ((M-C2H5)+.), 227.1 (((M-imidazoline)+.), 100%).

reactant | (2,6-bis-trifluoromethyl-phenyl)-acetonitrile | FC(C1=C(C(=CC=C1)C(F)(F)F)CC#N)(F)F | C10H5F6N
reactant | ethylene diamine | C(CN)N | C2H8N2
product | 2-(2,6-Bis-trifluoromethyl-benzyl)-4,5-dihydro-1H-imidazole | FC(C1=C(CC=2NCCN2)C(=CC=C1)C(F)(F)F)(F)F | C12H10F6N2
